US07326732B2
(i) 1-Methyl-5-nitro-1H-indole-2-carboxylic acid
5-Nitro-1H-indole-2-carboxylic acid ethyl ester (234 mg, 1 mmol) was dissolved in DMF (2 ml). NaH (32 mg, 1.4 mmol) was added as a suspension in heptane (0.5 ml) and the mixture was stirred at room temperature for 10 min. Iodomethane (170 mg, 1.2 mmol) was added drop-wise and the solution was left stirring for 1 h. During this reaction, hydrolysis occurred. The reaction mixture was quenched with H2O (2 ml) and washed with EtOAc (3×1 ml). The aqueous layer was acidified to pH 1 with conc. HCl until a white precipitate formed and extracted with EtOAc (3×1 ml). These organic layer were combined, dried (MgSO4), filtered and the solvent removed in vacuo to give the title compound.

reactant | 5-Nitro-1H-indole-2-carboxylic acid ethyl ester | 1 mmol, 234 mg | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H10N2O4
reactant | NaH | 1.4 mmol, 32 mg | [H-].[Na+]
reactant | Iodomethane | 1.2 mmol, 170 mg | IC | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | heptane | 0.5 ml | CCCCCCC | C7H16
product | 1-Methyl-5-nitro-1H-indole-2-carboxylic acid | CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C(=O)O | C10H8N2O4
